US05733912
18a. 2-fluoro-3-methyl-5-nitropyridine
2-Chloro-3-methyl-5-nitropyridine (15 g, 86.9 mmol; from Maybridge Chemical Co.), KF (12 g, 258 mmol) and tetraphenylphosphonium bromide (20 g, 47.7 mmol; Aldrich) were combined in 200 mL of acetonitrile and heated at reflux for 4 days. The mixture was diluted with Et2O (500 mL) and filtered, and the filtrate was concentrated. The residue was triturated with hot hexane (4×200 mL), and the hexane solutions were combined and concentrated to afford the title compound as a solid (8.4 g, 60%): 1H NMR (DMSO-d6, 300 MHz) δ2.42 (s, 3H), 8.43 (m, 1H), 8.95 (dd, J=1.6 Hz, 1H); MS (CI/NH3) m/z: 157 (M+H)+.

reactant | 2-Chloro-3-methyl-5-nitropyridine | 86.9 mmol, 15 g | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
reactant | KF | 258 mmol, 12 g | [F-].[K+]
catalyst | tetraphenylphosphonium bromide | 47.7 mmol, 20 g | [Br-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | Et2O | 500 mL | CCOCC | C4H10O
product | 2-fluoro-3-methyl-5-nitropyridine | 8.4 g, 60% | FC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5FN2O2
